US05292926
N-(2-Mercapto-2-Methylpropionyl)-S-Trityl-L-Cysteine (Compound No. 11)
To a stirred solution of N-(2-mercapto-2-methylpropionyl)-L-cysteine (11.2 g) in dimethylformamide(50 ml), trityl chloride(16.7 g) was added slowly. The reaction mixture was stirred for 2 hours at room temperature, poured into water and extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 14.2 g(60%) of the titled compound.

reactant | N-(2-mercapto-2-methylpropionyl)-L-cysteine | 11.2 g | SC(C(=O)N[C@@H](CS)C(=O)O)(C)C | C7H13NO3S2
reactant | trityl chloride | 16.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(2-Mercapto-2-Methylpropionyl)-S-Trityl-L-Cysteine | 14.2 g, 60% | SC(C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O)(C)C | C26H27NO3S2
